US06562807B2
3-(tert-Butyl)aniline (0.054 g, 0.36 mmol) was dissolved in ethyl acetate (2 mL) and added dry hydrogen chloride in ethyl acetate twice (3.5 M, 3 mL+2.5 mL). After 15 min the mixture was concentrated to dryness and co-evaporated three times from toluene (3×5 mL). The residue was added toluene (2.5 mL) and flushed with nitrogen for about 10 min, before diphosgene (0.43 mL) was added. Then the mixture was gently refluxed for 1 hour under a nitrogen atmosphere. The mixture was cooled and concentrated in vacuo. This was repeated twice to remove excess of diphosgene. The mixture was concentrated to dryness and coevaporated three times from toluene (5 mL each time). The residue was concentrated to dryness and co-evaporated twice from toluene. Then it was redissolved in toluene (2.5 mL) and flushed with nitrogen for about 10 min, before diphosgene (0.43 mL) was added. The mixture was gently refluxed under nitrogen for 1 hour. After cooling, the mixture was concentrated and co-evaporated twice from toluene to remove excess diphosgene to afford 3-tert-butyl-phenyl isocyanate.

reactant | 3-(tert-Butyl)aniline | 0.36 mmol, 0.054 g | C(C)(C)(C)C=1C=C(N)C=CC1 | C10H15N
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | 3-tert-butyl-phenyl isocyanate | C(C)(C)(C)C=1C=C(C=CC1)N=C=O | C11H13NO
